US08609696B2
To a stirred solution of tert-butyl 3-(1H-imidazol-2-yl)azetidine-1-carboxylate (36 mg, 0.16 mmol) in DCM (1 mL) is added boron trifluoride diethyl ether complex (40 μL, 0.318 mmol). After 2 h the reaction mixture is quenched with water (11 μL). MeOH is added and the reaction mixture is concentrated under reduced pressure to give crude 2-(azetidin-3-yl)-1H-imidazole.

reactant | tert-butyl 3-(1H-imidazol-2-yl)azetidine-1-carboxylate | 0.16 mmol, 36 mg | N1C(=NC=C1)C1CN(C1)C(=O)OC(C)(C)C | C11H17N3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(azetidin-3-yl)-1H-imidazole | N1CC(C1)C=1NC=CN1 | C6H9N3
